US04885022
(5) 3-Methoxymethyl-2-methyl-4-methylthioaniline
29.1 g (0.14 mol) of 3-methoxymethyl-2-methyl-4-thiocyanoaniline was dissolved in 200 ml of ethanol and mixed with 100 ml of an aqueous solution containing 33.6 g of sodium sulfide nonahydrate at room temperature. Then, 21.9 g of methyl iodide was dropwise added thereto, and the mixture was reacted at room temperature for 3 hours. After completion of the reaction, the solvent was distilled off under reduced pressure, and water and chloroform were added to the residue. Then, the organic layer was separated and washed sequentially with water and a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain 25.6 g of the desired product as an oily substance.

reactant | 3-methoxymethyl-2-methyl-4-thiocyanoaniline | 0.14 mol, 29.1 g | COCC=1C(=C(N)C=CC1SC#N)C | C10H12N2OS
reactant | sodium sulfide nonahydrate | 33.6 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | methyl iodide | 21.9 g | CI | CH3I
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-Methoxymethyl-2-methyl-4-methylthioaniline | 25.6 g | COCC=1C(=C(N)C=CC1SC)C | C10H15NOS
